US07189741B2
This compound was prepared following the procedure described in example 13 (part B) starting with 8.7 g (28.6 mmol) of 4-(5-methoxy-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester and 6.9 g (33.4 mmol) of 2-thiophen-3-yl-ethyl methanesulfonate. The reaction mixture was stirred at room temperature for 18 hours. After standard work-up, 6.7 g (57% of yield) of 4-[5-methoxy-1-(2-thiophen-3-yl-ethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester were obtained.

reactant | 4-(5-methoxy-1H-indol-3-yl)-piperidine-1-carboxylic acid ethyl ester | 28.6 mmol, 8.7 g | C(C)OC(=O)N1CCC(CC1)C1=CNC2=CC=C(C=C12)OC | C17H22N2O3
reactant | 2-thiophen-3-yl-ethyl methanesulfonate | 33.4 mmol, 6.9 g | CS(=O)(=O)OCCC1=CSC=C1 | C7H10O3S2
product | 4-[5-methoxy-1-(2-thiophen-3-yl-ethyl)-1H-indol-3-yl]-piperidine-1-carboxylic acid ethyl ester | 6.7 g, 57% | C(C)OC(=O)N1CCC(CC1)C1=CN(C2=CC=C(C=C12)OC)CCC1=CSC=C1 | C23H28N2O3S
